US07078414B2
11.8 mL (134.8 mmol) of oxalyl chloride are added at 20° C. under an argon atmosphere to 2.09 g (7.24 mmol) of 3-carboxy-2-methyl-1-(quinol-4-yl)-1H-pyrrole dissolved in 150 mL of dichloromethane. After stirring at 20° C. for 16 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give 2.2 g of 3-chlorocarbonyl-2-methyl-1-(quinol-4-yl)-1H-pyrrole hydrochloride in the form of an orange-coloured solid which is used directly in the following step.

reactant | oxalyl chloride | 134.8 mmol, 11.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-carboxy-2-methyl-1-(quinol-4-yl)-1H-pyrrole | 7.24 mmol, 2.09 g | C(=O)(O)C1=C(N(C=C1)C1=CC=NC2=CC=CC=C12)C | C15H12N2O2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 3-chlorocarbonyl-2-methyl-1-(quinol-4-yl)-1H-pyrrole hydrochloride | 2.2 g | Cl.ClC(=O)C1=C(N(C=C1)C1=CC=NC2=CC=CC=C12)C | InChI=1S/C15H11ClN2O.ClH/c1-10-11(15(16)19)7-9-18(10)14-6-8-17-13-5-3-2-4-12(13)14;/h2-9H,1H3;1H
